US04342781
N-Decyl-3-phenyl-3-(4-nitrophenyl)propenamide
To a stirred solution of 5.89 g. of decylamine in 25 ml. of tetrahydrofuran was added a solution of 4.89 g. of 3-phenyl-3-(4-nitrophenyl)propenoyl chloride in 25 ml. of tetrahydrofuran, dropwise, during 20 minutes, at ice-bath temperature. The solvent was removed by evaporation in vacuo and the residue was partitioned between ethyl acetate and water. The layers were separated, and the ethyl acetate layer was washed with water, dried using sodium sulfate, and then evaporated in vacuo. This afforded 5.6 g. of the title compound, m.p. 91°-93° C.

reactant | decylamine | C(CCCCCCCCC)N | C10H23N
reactant | 3-phenyl-3-(4-nitrophenyl)propenoyl chloride | C1(=CC=CC=C1)C(=CC(=O)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C15H10ClNO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Decyl-3-phenyl-3-(4-nitrophenyl)propenamide | C(CCCCCCCCC)NC(C=C(C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C25H32N2O3
